US07598423B2
Synthesis of 3-[[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile
Add diisopropylazodicarboxylate (DIAD, 5.418 g, 26.80 mmol) to a solution of 1-(3-chloro-2,4-dihydroxy-phenyl)ethanone (5.000 g, 26.80 mmol), 3-[(4-hydroxymethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (8.666 g, 26.80 mmol), and triphenylphosphine (7.028 g, 26.80 mmol) in tetrahydrofuran (0.200M) at 0° C. Stir for 2 hours while warming to room temperature. Add silica gel and evaporate solvent. Chromatograph with Biotage Flash 75, eluting with 50-90% ethyl acetate/hexanes to afford the title compound as a white solid (13.00 g, 26.42 mmol, 98%): MS (m/z): 490 (M−H).

reactant | diisopropylazodicarboxylate | 26.80 mmol, 5.418 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-(3-chloro-2,4-dihydroxy-phenyl)ethanone | 26.80 mmol, 5.000 g | ClC=1C(=C(C=CC1O)C(C)=O)O | C8H7ClO3
reactant | 3-[(4-hydroxymethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 26.80 mmol, 8.666 g | OCC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)OC1OCCCC1 | C20H21NO3
reactant | triphenylphosphine | 26.80 mmol, 7.028 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 0.200M | O1CCCC1 | C4H8O
product | 3-[[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 26.42 mmol, 13.00 g, 98% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=C1)Cl)O | C28H26ClNO5
